Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
rifaximin / Sulfa (Sulfonamide Antibiotics) / Exelon
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with hx of ischemic colitis ___ internal hernia) s/p remote 
extensive bowel resection in ___, chronic neuropathy, SIBO, 
longstanding diarrhea and emesis with associated weight loss, 
early Alzheimer's disease presenting as direct admission for ___ 
despite outpatient IVF daily hydration.

Detailed GI history is outlined in Dr. ___ progress note 
dated. Recent history is described as followed based on Dr. 
___, with some modifications based on discussion with pt 
on admission:
'She had a port placed for hydration ___. She was 
hospitalized (in ED ___ at ___ because of 
dehydration, hypocalcemia, and low magnesium. On ___ BUN 
27, Cr.2.09 (See ___ note of ___. After the port was 
placed she was getting 2 liters of IV fluid twice a week. 
___ BUN 47, CR 3.60 and ___ CR 3.53 and BUN 52 mg/dl. Mg 
1.6 and ionized CA 1.16. She received 2 units of IV saline 
___. She says she was seen by a renal specialist 
in ___ and was prescribed on prednisone 20mg/day, but it 
is unclear why that was done; pt had previously taken prednisone 
and did not like the effect, so did not start taking it. She has 
been anemic. ___ WBC 7.2, Hgb 9.6, HCT29.8%, plots 
223,000.....
Breakfast is a bagel or ___ muffin with banana and 6OZ 
coffee and ___ glass (6oz) of pedilyte with lemonade. Lunch is 
10oz lemonade, squash soup-large cup, chocolate croissang or 
salad. Dinner is fish or chicken 4 oz, mixed vegetable 4oz and 
often with pasta. She drinks 16 oz of Crystal Lyte/day. She does 
not
snack and says she does not drink any more fluid. 
'Her weight on ___, was 121 pounds; ___, 119 
pounds; ___, 111 pounds, on ___, it was 108.6 
and ___ was 106 pounds.'

Pt has been followed closely by Dr. ___ as outpatient, with 
attempts at outpatient IV hydration to maintain volume status. 
Despite this, Cr has been consistently rising, from 0.8 in ___, 
to 1.7 ___ 
___ direct admission was arranged to answer the following 
questions, as framed in Dr. ___ note dated ___:
"1. why the diarrhea. Is it short gut? Does she continue to have 
large output if not eating? Any inflammation? Any anatomic 
abnormality? Any colitis or infection?
"2. Why large urine output when dehydration. Needs evaluation. 
Thought to have acute on chronic kidney disease.
"3. Determination on how to manage large fluid losses. Should 
she be on home IV hydration daily? Does she need TPN?"

Link to ___ is not connecting to pt's records on 
evening of admission; unable to review Cr trend during recent 
hospitalization there. Last colonoscopy was performed ___ 
with normal mucosa; pt has apparently declined repeat 
colonoscopy since that time.

On admission to the floor, pt describes longstanding diarrhea 
and intermittent emesis as above. She describes emesis on 
___ in the pm. She describes loose, watery stools, occurring 
at least ___ times per day, max 5 times per day, without 
hematochezia or melena. Diarrhea stops when she stops eating; in 
general, she has continued to eat 3 meals per day as described 
above. She denies fevers, chills. She has emesis about once per 
week, nonbloody. No clear trigger, no significant preceding 
nausea; emesis relieves small amount of nausea that precedes it. 
She has ___ loose BMs overnight, typically in the early am. 
Denies recent travel for more than ___ year. No sick contacts. She 
believes that her diarrhea has worsened over the past ___ 
months, both in frequency and quantity. She has noted frequent 
urination in the setting of frequent IVF. She has noted 
intermittent hematuria, without associated dysuria. She is 
weighed at home, with nadir at 99-100 lbs, within the last 
month. She does have lightheadedness only with standing from 
sitting or lying down. She describes fecal incontinence 
approximately once per week, described as diarrhea "just pouring 
out." At other times, she has plenty of time to get to the 
toilet. Her symptoms have never been accompanied by abdominal 
pain.

On arrival to the floor, pt has no complaints. She is 
comfortable, without pain. She denies chest pain, SOB, fevers, 
chills, abdominal pain. 

ROS: All else negative
 
Past Medical History:
Ischemic colitis ___ internal hernia) s/p remote extensive 
bowel resection on ___ (at ___?)
Chronic neuropathy
SIBO
Chronic diarrhea as per HPI
Early Alzheimer's disease

 
Social History:
___
Family History:
Parents both died of cardiac problems. No known GI issues.
 
Physical Exam:
VS 97.8 PO 164/80 66 16 100 ra 
Gen: Alert, pleasant, interactive, NAD
HEENT: PERRL, EOMI, clear oropharynx, anicteric sclera, moist 
mucus membranes
Neck: Supple, no cervical or supraclavicular adenopathy
CV: RRR, soft ___ systolic murmur throughout precordium
Lungs: CTAB, no wheeze or rhonchi
Abd: soft, nontender, nondistended, no rebound or guarding, 
normoactive bowel sounds, no hepatomegaly
GU: No foley
Ext: WWP, trace bilateral pitting edema, no clubbing or cyanosis
Neuro: pt is able to state her name, that she is in ___, a 
hospital - there is some delay in recall of name of the 
hospital. Oriented to date. Able to name president, months of 
the year forwards and backwards. Motor exam grossly intact.

Exam on discharge:
98.2 BP:145/75 66 18 98 RA 
Gen: Alert, pleasant, interactive, NAD
HEENT: PERRL, EOMI, clear oropharynx, anicteric sclera, moist 
mucus membranes
CV: RRR, soft ___ systolic murmur throughout precordium
Lungs: CTAB, no wheeze or rhonchi
Abd: soft, nontender, nondistended, no rebound or guarding, 
normoactive bowel sounds, no hepatomegaly
GU: No foley
Ext: WWP, trace bilateral pitting edema, no clubbing or cyanosis
Neuro:AAOx3, moving all extremities
 
Pertinent Results:
ADMISSION LABS
--------------
___ 01:20AM BLOOD Glucose-86 UreaN-45* Creat-2.8* Na-138 
K-4.0 Cl-113* HCO3-13* AnGap-16
___ 01:20AM BLOOD ALT-8 AST-11 AlkPhos-29* TotBili-0.5
___ 01:20AM BLOOD Calcium-8.7 Phos-5.3* Mg-1.7
___ 04:04AM BLOOD Type-MIX pO2-244* pCO2-33* pH-7.20* 
calTCO2-13* Base XS--13 Comment-GREEN TOP 
___ 04:04AM BLOOD Lactate-1.2
___ 02:49AM BLOOD WBC-PND RBC-PND Hgb-PND Hct-PND MCV-PND 
MCH-PND MCHC-PND RDW-PND RDWSD-PND Plt Ct-PND
___ 01:20AM BLOOD WBC-7.8 RBC-2.42*# Hgb-6.9*# Hct-22.1*# 
MCV-91 MCH-28.5 MCHC-31.2* RDW-14.9 RDWSD-50.4* Plt ___
___ 02:49AM BLOOD Plt Ct-PND
___ 01:20AM BLOOD Plt ___
___ 01:20AM BLOOD ___ PTT-34.2 ___

IMAGING
-------
Small bowel follow through:
IMPRESSION:  
Barium passes quickly into the small bowel within 25 min due to 
limited amount of remaining small bowel, all of which has a 
jejunal fold pattern, which with the short length of small bowel 
likely reflects that the entire ileum has been resected.  No 
fistula identified. 

MICROBIOLOGY
------------
   CYCLOSPORA STAIN (Final ___:    NO CYCLOSPORA SEEN. 

   MICROSPORIDIA STAIN (Preliminary): 

   Cryptosporidium/Giardia (DFA) (Final ___: 
      NO CRYPTOSPORIDIUM OR GIARDIA SEEN. 

   OVA + PARASITES (Final ___: 
      NO OVA AND PARASITES SEEN. 
      This test does not reliably detect Cryptosporidium, 
Cyclospora or
      Microsporidium. While most cases of Giardia are detected 
by routine
      O+P, the Giardia antigen test may enhance detection when 
organisms
      are rare. 

   FECAL CULTURE (Final ___:    NO SALMONELLA OR SHIGELLA 
FOUND. 

   CAMPYLOBACTER CULTURE (Final ___:    NO CAMPYLOBACTER 
FOUND. 

   FECAL CULTURE - R/O E.COLI 0157:H7 (Final ___: 
      NO E.COLI ___:H7 FOUND. 

   FECAL CULTURE - R/O VIBRIO (Final ___:    NO VIBRIO 
FOUND. 

DISCHARGE LABS
--------------
___ 05:09AM BLOOD WBC-7.3 RBC-2.81* Hgb-8.0* Hct-25.2* 
MCV-90 MCH-28.5 MCHC-31.7* RDW-15.0 RDWSD-49.7* Plt ___
___ 05:09AM BLOOD Calcium-8.2* Phos-3.1 Mg-1.8
___ 01:20AM BLOOD calTIBC-254* Ferritn-163* TRF-195*
___ 01:20AM BLOOD T4-3.7* T3-70*
___ 01:20AM BLOOD PEP-HYPOGAMMAG IgG-452* IgA-107 IgM-11*
___ 01:20AM BLOOD tTG-IgA-___ with hx of ischemic colitis ___ internal hernia) s/p remote 
extensive bowel resection in ___, chronic neuropathy, SIBO, 
longstanding diarrhea and emesis with associated weight loss, 
early Alzheimer's disease presenting as direct admission for ___ 
despite outpatient IVF daily hydration.

# Acute renal failure on Chronic Kidney disease:
Baseline creatinine in the ___ range with episodes of 
elevation to 3.0.  The patient was given IV fluids with 
improvement in her creatinine to 2.6. The patient was seen by 
nephrology who discussed with the patient's outpatient 
nephrologist. SPEP was sent and showed only 
hypogammaglobulinemia. The patient likely has underlying CKD 
with changes in her renal function related to volume status. She 
was advised to continue to measure her urine output and to have 
repeat urine studies as an outpatient. 

# Diarrhea: To date has been attributed to small bowel resection 
and SIBO. Longstanding, refractory to supportive outpatient 
care, based on rising Cr appears unable to maintain adequate 
intake even with frequent IVF boluses via port. The patient was 
followed by gastroenterology. Stool studies were checked which 
were negative. She had a ttG which was normal. Upper GI series 
with small bowel follow through showed rapid movement of barium 
into the small bowel confirming short gut syndrome. The 
patient's diarrhea improved during her hospitalization. She was 
advised to take creon- open the capusles 15 minutes before 
meals. She was also advised to cook with MCT oil and to use 
liquid loperamide to help control her diarrhea as an outpatient. 
She will follow up with Dr. ___ discharge.

# Anemia: Normocytic with normal RDW, confirmed on repeat check. 
Supports diagnosis of progressive CKD. H/H was stable throughtou 
hospitalization. 

# Nonanion gap metabolic acidosis: In  setting of chronic 
diarrhea, on sodium bicarb supplementation at home which was 
continued.

#Thyroid studies
Patient noted to have THS of 9.8 with T4 of 3.7 and T3 of 70. 
Advised to discuss these results with her PCP or endocrinologist

# Neuropathy:
- Continue home neuropathy

# Mild Alzheimer's disease:
- Continue home donepezil - recently started
- Continue home folic acid

TRANSITIONS OF CARE
-------------------

# Code status: FULL - presumed
# Contact: Husband
# Will return to ___ ongoing NS infusions. 
Repeat labs already ordered by Dr. ___
#Please repeat Thyroid function tests as an outpatient

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Calcitriol 0.5 mcg PO BID 
2. Cyanocobalamin 1000 mcg IM/SC MONTHLY 
3. Denosumab (Prolia) 60 mg SC EVERY 6 MONTHS 
4. Donepezil 5 mg PO QHS 
5. Vitamin D ___ UNIT PO THREE TIMES PER WEEK 
6. FoLIC Acid 1 mg PO DAILY 
7. Gabapentin 300 mg PO QHS:PRN neuropathy 
8. Creon (lipase-protease-amylase) 24,000-76,000 -120,000 unit 
oral TID 
9. potassium 20 meq oral BID 
10. LOPERamide ___ mg PO TID:PRN diarrhea 
11. Multivitamins 1 TAB PO DAILY 
12. Sodium Bicarbonate 1300 mg PO BID 

 
Discharge Medications:
1.  Creon 12 ___ unit PO TID W/MEALS 
Open capsules and take 15 minutes before meals  
2.  Calcitriol 0.5 mcg PO BID  
3.  Creon (lipase-protease-amylase) 24,000-76,000 -120,000 unit 
oral TID  
4.  Cyanocobalamin 1000 mcg IM/SC MONTHLY  
5.  Denosumab (Prolia) 60 mg SC EVERY 6 MONTHS  
6.  Donepezil 5 mg PO QHS  
7.  FoLIC Acid 1 mg PO DAILY  
8.  Gabapentin 300 mg PO QHS:PRN neuropathy  
9.  LOPERamide ___ mg PO TID:PRN diarrhea  
10.  Multivitamins 1 TAB PO DAILY  
11.  potassium 20 meq oral BID  
12.  Sodium Bicarbonate 1300 mg PO BID  
13.  Vitamin D ___ UNIT PO THREE TIMES PER WEEK  
14.Outpatient Lab Work
Please check U/A, Urine creatinine, sodium, potassium
Fax results to:
Dr. ___ ___ Fax

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute renal failure
Short gut syndrome
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you during your recent 
hospitalization at ___.  You came for further evaluation of 
kidney injury and chronic diarrhea. You were seen by Dr. ___ 
and by the renal team. You had a test of your small bowel which 
showed that what you eat moves through your bowels very quickly. 
 You should follow a low fat diet at home and cook with MCT oil. 
You should also open the Creon capsules before taking them. You 
should continue to get fluids at the ___. When you 
have your labs checked, they will also need to check your urine. 

Please keep track of your urine and stool output and send these 
results to Dr. ___.
It is important that you continue to take your medications as 
prescribed and follow up with the appointments listed below.

We wish you the best!
Your ___ Care team
 
Followup Instructions:
___